US08466150B2
4-fluoro-3-(2-methyl-5-oxopyrrolidin-1-yl)benzaldehyde
A 100 mL round bottom flask was charged with 3-bromo-4-fluorobenzaldehyde (1.0 g, 4.93 mmol), tris(dibenzylideneacetone)dipalladium(0)(450 mg, 0.493 mmol), Xantphos (4,5-bis(diphenylphosphino)-9,9-dimethylxanthene) (428 mg, 0.739 mmol), and cesium carbonate (2.4 g, 7.39 mmol). The mixture was purged with nitrogen, and anhydrous dioxane (15 mL), and 5-methylpyrrolidinone (0.586 g, 5.91 mmol) were added. The reaction mixture was purged with nitrogen again, and heated at 100° C. for 20 hours. After cooling to room temperature, the reaction mixture was partitioned between ethyl acetate and brine. The organic phase was dried over MgSO4, filtered and concentrated. The residue was separated by flash chromatography (50% ethyl acetate in hexane) to provide the title compound. MS (DCI/NH3) m/z 222 (M+H)+.

reactant | 3-bromo-4-fluorobenzaldehyde | 4.93 mmol, 1.0 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | Xantphos | 0.739 mmol, 428 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 7.39 mmol, 2.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-methylpyrrolidinone | 5.91 mmol, 0.586 g | CC1CCC(N1)=O | C5H9NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.493 mmol, 450 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 4-fluoro-3-(2-methyl-5-oxopyrrolidin-1-yl)benzaldehyde | FC1=C(C=C(C=O)C=C1)N1C(CCC1=O)C | C12H12FNO2
